US05691307
2-Amino-6-benzyloxy-9-pivaloyloxymethylpurine (formula 1, X1.5 =H, Z=CH2OCOC(CH3)3)
To 0.24 g (1 mmol) of O6 -benzylguanine under argon was added 1 mL of a 1M solution of sodium ethoxide in ethanol. The homogeneous solution was stirred for 10 minutes. The ethanol was then removed under vacuum. The remaining solid was dissolved in 2 mL of dry DMF. Chloromethyl pivalate (0.145 ml, 1 mmol) was added dropwise to the stirred solution. The mixture was allowed to react for 30 minutes at room temperature. The DMF was removed under vacuum. The residue was triturated with a small volume of 10% ethanol in CHCl3 and the soluble material was loaded on a 2.5×17 cm silica gel column (Davisil grade 633, 200-425 mesh, 60 Å). The product was eluted with 10% ethanol in CHCl3. Yield, 257 mg (72%); mp 161°-162° C.; 1H NMR δ1.09 (s, 9 H, (CH3)3), 5.48 (s, 2 H, CH2N<), 5.96 (s, 2 H, BzlCH2), 6.64 (s, 2 H, NH2), 7.34 (cm, 1 H, p-ArH), 7.39 (cm, 2 H, 2 m-ArH), 7.50 (cm, 2 H, 2 o-ArH), 7.92 (s, 1 H, 8-H); 13C NMR δ26.51 ((CH3)3), 38.20 (C(CH3)3), 65.13 (CH2N), 66.94 (BzlCH2), 113.11 (C-5), 128.05 (p-Ar), 128.38 (2 m-Ar), 128.47 (2 o-Ar), 136.50 (ipso-Ar), 139.96 (C-8), 154.30 (C-4), 160.11 (C-2), 160.18 (C-6), 176.96 (CO2); MS (EI) Calcd. m/z for C18H21N5O3 : 355.1644. Found: 355.1660 (5 ppm error). Anal. Calcd. for C18H21N5O3 : C, 60.83; H, 5.96; N, 19.71. Found: C, 61.11; H, 6.07; N, 19.64.

reactant | O6 -benzylguanine | 1 mmol, 0.24 g | C=1C=CC(=CC1)COC=2C3=C(NC=N3)N=C(N2)N | C12H11N5O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | Chloromethyl pivalate | 1 mmol, 0.145 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-6-benzyloxy-9-pivaloyloxymethylpurine | NC1=NC(=C2N=CN(C2=N1)COC(C(C)(C)C)=O)OCC1=CC=CC=C1 | C18H21N5O3
